US07855292B2
A. 2-(2,6-Difluoro-benzenesulfonylamino)-4-chloro-benzoic acid
Methyl 2-amino-4-chlorobenzoate was sulfonylated with 2,6-difluorobenzenesulfonyl chloride and hydrolyzed as in EXAMPLE 1, Parts A and B.

reactant | Methyl 2-amino-4-chlorobenzoate | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | 2,6-difluorobenzenesulfonyl chloride | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 2-(2,6-Difluoro-benzenesulfonylamino)-4-chloro-benzoic acid | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)Cl | C13H8ClF2NO4S
